US06008229
To a solution of 2-aminomethyl-1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]pyrrole (100 mg) and 4-(dimethylcarbamoyl)cinnamic acid (58.5 mg) in N,N-dimethylformamide (2 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (55.8 mg) and 1-hydroxybenzotriazole (49.2 mg) at ambient temperature, and the mixture was allowed to stand for 18 hours. The reaction mixture was poured into water and extracted with chloroform. The separated organic layer was washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol=20:1, V/V) to give 1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]-2-[4-(dimethylcarbamoyl)cinnamoylaminomethyl]pyrrole (122 mg) as an amorphous powder.

reactant | 2-aminomethyl-1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]pyrrole | 100 mg | NCC=1N(C=CC1)C1=C(C(=C(C=C1)Cl)COC=1C=CC=C2C=CC(=NC12)C)Cl | C22H19Cl2N3O
reactant | 4-(dimethylcarbamoyl)cinnamic acid | 58.5 mg | CN(C(=O)C1=CC=C(C=CC(=O)O)C=C1)C | C12H13NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 55.8 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 49.2 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[2,4-dichloro-3-(2-methylquinolin-8-yloxymethyl)phenyl]-2-[4-(dimethylcarbamoyl)cinnamoylaminomethyl]pyrrole | 122 mg | ClC1=C(C=CC(=C1COC=1C=CC=C2C=CC(=NC12)C)Cl)N1C(=CC=C1)CNC(C=CC1=CC=C(C=C1)C(N(C)C)=O)=O | C34H30Cl2N4O3
